US08604029B2
To a solution of 4-methylene-1-(4-nitrophenyl)-piperidine (230 mg, 1.05 mmol) in ethyl acetate (5 mL) was added stannous chloride dihydrate (1.19 g, 5.2 mmol). The mixture was heated to 60° C. and maintained for 4 hrs. The mixture was evaporated to dryness then sodium hydroxide solution was added to give a final pH of 8. The mixture was extracted with ethyl acetate and the combined organic layers were washed with water, then brine, and then dried. Concentration under reduced pressure afforded 4-methylene-1-(4-aminophenyl)-piperidine (150 mg, 75%) as a semisolid.

reactant | 4-methylene-1-(4-nitrophenyl)-piperidine | 1.05 mmol, 230 mg | C=C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14N2O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 4-methylene-1-(4-aminophenyl)-piperidine | 150 mg, 75% | C=C1CCN(CC1)C1=CC=C(C=C1)N | C12H16N2
